US07652015B2
4-(5-Amino-6-methyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
Mix a slurry of 4-(6-methyl-5-nitro-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (46.00 g, 142.7 mmol) in THF (750 mL) at room temperature with Pd/C (5% Aldrich, 3.04 g, 1.43 mmol) then place under a hydrogen atmosphere (Parr shaker, 40-45 psi) for 6 hours. Add MeOH (250 mL), and subject the slurry to an atmosphere of hydrogen for 4 hours at room temperature. Add additional catalyst (3.04 g), then place the mixture under hydrogen for 7 hours. Filter the mixture through a pad of Celite 521®, washing with THF and MeOH then concentrate under reduced pressure to provide the title compound a pale pink solid. (41.58 g, 99% yield, MS(ES+): m/z=293 [M+H]).

reactant | 4-(6-methyl-5-nitro-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 142.7 mmol, 46.00 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=C(C=C1)[N+](=O)[O-])C | C15H22N4O4
reactant | MeOH | 250 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | THF | 750 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 1.43 mmol, 3.04 g | [Pd] | Pd
product | 4-(5-Amino-6-methyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 99% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=C(C=C1)N)C | C15H24N4O2
